US07030121B2
A mixture of 2-phenyl-3-[6-(phenylsulfonyl)-3-pyridinyl]pyrazolo[1,5-a]pyrazine (3.93 g) and sodium methoxide (5.2M MeOH solution, 10 mL) in MeOH (60 mL) and 1,4-dioxane (60 mL) was stirred at 85° C. for 1 h. The reaction mixture was concentrated in vacuo, and ice water was added, extracted, with EtOAc, washed with water and brine, dried over sodium sulfate, evaporated in vacuo. The residue was purified by silica gel column chromatography (n-hexane-EtOAc 2:3) to give 3-(6-methoxy-3-pyridinyl)-2-phenylpyrazolo[1,5-a]pyrazine (2.37 g) as an oil.

reactant | 2-phenyl-3-[6-(phenylsulfonyl)-3-pyridinyl]pyrazolo[1,5-a]pyrazine | 3.93 g | C1(=CC=CC=C1)C1=NN2C(C=NC=C2)=C1C=1C=NC(=CC1)S(=O)(=O)C1=CC=CC=C1 | C23H16N4O2S
reactant | sodium methoxide | 5.2M, 10 mL | C[O-].[Na+]
solvent | MeOH | 60 mL | CO | CH4O
solvent | 1,4-dioxane | 60 mL | O1CCOCC1 | C4H8O2
product | 3-(6-methoxy-3-pyridinyl)-2-phenylpyrazolo[1,5-a]pyrazine | 2.37 g | COC1=CC=C(C=N1)C=1C(=NN2C1C=NC=C2)C2=CC=CC=C2 | C18H14N4O
